US06388088B1
A mixture of zinc dust (650 mg, 10 mmol, Aldrich, −325 mesh) and dry tetrahydrofuran (1 mL) under argon was treated with 1,2-dibromoethane (187 mg, 1 mmol). The zinc suspension was then heated with a heat gun to ebullition, allowed to cool, and heated again. This process was repeated three times to make sure the zinc dust was activated. The activated zinc dust suspension was then treated with trimethylsilyl chloride (108 mg, 1 mmol), and the suspension was stirred for 15 min at 25° C. The reaction mixture was then treated dropwise with a solution of (E)-3-cyclopentyl-2-iodo-acrylic acid methyl ester (2.21 g, 7.5 mmol) in dry tetrahydrofuran (3 mL) over 3 min. The resulting reaction mixture was then stirred at 40-45° C. for 1 h and then stirred overnight at 25° C. The reaction mixture was then diluted with dry tetrahydrofuran (5 mL), and the stirring was stopped to allow the excess zinc dust to settle down (˜2 h). In a separate reaction flask, bis(dibenzylideneacetone)palladium(0) (90 mg, 0.16 mmol) and triphenylphosphine (160 mg, 0.6 mmol) in dry tetrahydrofuran (10 mL) was stirred at 25° C. under argon for 10 min and then treated with 1-(2-fluoro-4-iodo-phenyl)-5-methyl-1H-tetrazole (1.52 g, 5 mmol) and the freshly prepared zinc compound in tetrahydrofuran. The resulting brick red solution was stirred at 25° C. over the weekend and then heated at 40-45° C. for 4 h. The reaction mixture was cooled to 25° C. and then poured into a saturated aqueous ammonium chloride solution (50 mL), and the organic compound was extracted into ethyl acetate (3×50 mL). The combined organic extracts were washed with a saturated aqueous sodium chloride solution (1×100 mL), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 4/1 to 1/1 hexanes/ethyl acetate) afforded (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid methyl ester (1.14 g, 68%) as a light yellow solid: mp 111-114° C.; EI-HRMS m/e calcd for C17H19FN4O2 (M+) 330.1492, found 330.1493.

reactant | 1,2-dibromoethane | 1 mmol, 187 mg | BrCCBr | C2H4Br2
reactant | trimethylsilyl chloride | 1 mmol, 108 mg | C[Si](C)(C)Cl | C3H9ClSi
reactant | (E)-3-cyclopentyl-2-iodo-acrylic acid methyl ester | 7.5 mmol, 2.21 g | COC(/C(=C\C1CCCC1)/I)=O | C9H13IO2
reactant | triphenylphosphine | 0.6 mmol, 160 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-(2-fluoro-4-iodo-phenyl)-5-methyl-1H-tetrazole | 5 mmol, 1.52 g | FC1=C(C=CC(=C1)I)N1N=NN=C1C | C8H6FIN4
reactant | ammonium chloride | 50 mL | [Cl-].[NH4+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
catalyst | zinc | 10 mmol, 650 mg | [Zn] | Zn
catalyst | bis(dibenzylideneacetone)palladium(0) | 0.16 mmol, 90 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | (E)-3-cyclopentyl-2-[3-fluoro-4-(5-methyl-tetrazol-1-yl)-phenyl]-acrylic acid methyl ester | 1.14 g, 68% | COC(\C(=C\C1CCCC1)\C1=CC(=C(C=C1)N1N=NN=C1C)F)=O | C17H19FN4O2
